US04123250
Preparation of 3,4-Dimethyl-2,6-Dinitroaniline
Into 30 ml. of concentrated sulfuric acid is added 2.85 grams of N-(ethoxycarbonyl)-3,4-dimethyl-2,6-dinitroaniline. The mixture is heated to a temperature in the range of from 110° C. to 120° C. for 15 minutes and then poured over ice. The precipitated solid is collected and crystallized from absolute ethanol yielding the desired product having a melting point of from 141.5° C. to 142.5° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | N-(ethoxycarbonyl)-3,4-dimethyl-2,6-dinitroaniline | 2.85 grams | C(C)OC(=O)NC1=C(C(=C(C=C1[N+](=O)[O-])C)C)[N+](=O)[O-] | C11H13N3O6
product | 3,4-Dimethyl-2,6-Dinitroaniline | CC=1C(=C(N)C(=CC1C)[N+](=O)[O-])[N+](=O)[O-] | C8H9N3O4
